US07795262B2
Step 4. Preparation of [3-(ethoxycarbonyl)-5,8-dihydro-1,7-naphthyridin-7(6H)-yl]acetic acid hydrochloride
To a solution of ethyl 7-(2-tert-butoxy-2-oxoethyl)-5,6,7,8-tetrahydro-1,7-naphthyridine-3-carboxylate (657 mg, 2.05 mmol) in dioxane (10 mL) is added 4 N HCl in dioxane (5 ml, 20 mmol) and the mixture is stirred at rt overnight. The solvent is removed and the residue is washed with ether to give the title compound as a white solid. MS (M+1): 265.1.

reactant | ethyl 7-(2-tert-butoxy-2-oxoethyl)-5,6,7,8-tetrahydro-1,7-naphthyridine-3-carboxylate | 2.05 mmol, 657 mg | C(C)(C)(C)OC(CN1CCC=2C=C(C=NC2C1)C(=O)OCC)=O | C17H24N2O4
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 20 mmol, 5 ml | O1CCOCC1 | C4H8O2
product | [3-(ethoxycarbonyl)-5,8-dihydro-1,7-naphthyridin-7(6H)-yl]acetic acid hydrochloride | Cl.C(C)OC(=O)C=1C=NC=2CN(CCC2C1)CC(=O)O | InChI=1S/C13H16N2O4.ClH/c1-2-19-13(18)10-5-9-3-4-15(8-12(16)17)7-11(9)14-6-10;/h5-6H,2-4,7-8H2,1H3,(H,16,17);1H
